US09339503B2
2-[4-(4-oxo-3,4,5,6,7,8-hexahydroquinazolin-2-yl)piperazin-1-yl]-N-pyridin-3-ylacetamide (“A23”)
2-Methylsulfanyl-5,6,7,8-tetrahydro-3H-quinazolin-4-one (100 mg; 0.51 mmol), N-(3-pyridyl)-2-(piperazin-1-yl)acetamide * 3HCl (251.9 mg; 0.76 mmol) and triethylamine (282.5 μl; 2.04 mmol) are reacted in isoamyl alcohol (2 ml) in accordance with the procedure for Example 1 (reaction time 4 h) and worked up.

reactant | 2-Methylsulfanyl-5,6,7,8-tetrahydro-3H-quinazolin-4-one | 0.51 mmol, 100 mg | CSC1=NC=2CCCCC2C(N1)=O | C9H12N2OS
reactant | N-(3-pyridyl)-2-(piperazin-1-yl)acetamide | N1=CC(=CC=C1)NC(CN1CCNCC1)=O | C11H16N4O
reactant | triethylamine | 2.04 mmol, 282.5 μl | C(C)N(CC)CC | C6H15N
solvent | isoamyl alcohol | 2 ml | C(CC(C)C)O | C5H12O
product | 2-[4-(4-oxo-3,4,5,6,7,8-hexahydroquinazolin-2-yl)piperazin-1-yl]-N-pyridin-3-ylacetamide | O=C1NC(=NC=2CCCCC12)N1CCN(CC1)CC(=O)NC=1C=NC=CC1 | C19H24N6O2
